US04234578
1.42 g of 2-thienylacetic acid are added in portions to a solution, kept at 0°-5° C., of 1.34 g of N-hydroxymethyl acetamide (Einhorn, Ann. Chem., volume 343, page 264 (1905)) in 10 ml of trifluoroacetic acid, whilst stirring. The mixture is stirred for 2 hours at 0°-5° C. and the trifluoroacetic acid is distilled off under reduced pressure. 30 ml of water are added to the residue and the mixture is extracted with twice 50 ml of ethyl acetate. The organic extracts are washed with a saturated aqueous sodium chloride solution, dried over magnesium sulphate, concentrated under reduced pressure and filtered through silica gel. The residue is crystallised from ethyl acetate and gives 2-(5-acetylaminomethyl-2-thienyl)-acetic acid, thin layer chromatogram (silica gel): Rf=0.61 (system: butanol/acetic acid/water, 45:45:10); infrared absorption spectrum (mineral oil): characteristic bands at 2.95μ, 5.82μ, 6.23μ and 6.38μ.

reactant | 2-thienylacetic acid | 1.42 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | N-hydroxymethyl acetamide | 1.34 g | OCNC(C)=O | C3H7NO2
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(5-acetylaminomethyl-2-thienyl)-acetic acid | C(C)(=O)NCC1=CC=C(S1)CC(=O)O | C9H11NO3S
